US07960394B2
(1) Production of 2,5-dibromo-3-nitropyridine
Hydrogen bromide (48% in H2O, 13 mL) was stirred at 0° C., to which 5-bromo-3-nitropyridin-2-amine (5.0 g, 22.9 mmol) was dropwise added with its inner temperature kept at 5° C. or lower. After the addition, bromine (4.69 mL) and sodium sulfite (6.32 g) were added to it in that order. After stirred at 0° C. for 45 minutes, aqueous sodium hydroxide (9.16 g) solution (10 mL) was added thereto and stirred at room temperature for 1 hour. The resulting solid was taken out through filtration, washed with water and dried to obtain the intended compound (3.80 g, 58.9%).

reactant | Hydrogen bromide | 13 mL | Br | BrH
reactant | 5-bromo-3-nitropyridin-2-amine | 22.9 mmol, 5.0 g | BrC=1C=C(C(=NC1)N)[N+](=O)[O-] | C5H4BrN3O2
reactant | bromine | 4.69 mL | BrBr | Br2
reactant | sodium sulfite | 6.32 g | S(=O)([O-])[O-].[Na+].[Na+]
reactant | sodium hydroxide | 9.16 g | [OH-].[Na+]
product | 2,5-dibromo-3-nitropyridine | 3.80 g, 58.9% | BrC1=NC=C(C=C1[N+](=O)[O-])Br | C5H2Br2N2O2
